US08735586B2
5-Fluoro-2-methyl-1-phenyl-1H-benzoimidazole
The title compound was prepared with the analogous procedure described in example 3 using 1-Bromo-4-fluoro-2-nitrobenzene and N-phenylacetamide (81 mg, 0.6 mmol) as starting materials to yield the title compound as brown solid (69 mg, 61%). 1H NMR (DMSO) δ 2.49 (s, 3 H), 7.17-7.32 (m, 2 H), 7.61-7.73 (m, 6 H).

reactant | 1-Bromo-4-fluoro-2-nitrobenzene | BrC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3BrFNO2
reactant | N-phenylacetamide | 0.6 mmol, 81 mg | C1(=CC=CC=C1)NC(C)=O | C8H9NO
product | 5-Fluoro-2-methyl-1-phenyl-1H-benzoimidazole | 69 mg, 61% | FC1=CC2=C(N(C(=N2)C)C2=CC=CC=C2)C=C1 | C14H11FN2
